US06730674B2
A mixture of 3-(3-chloro-phenylsulfanyl)-6-methoxy-pyridazine (529 mg), m-chloroperbenzoic acid (MCPBA) (760 mg) and chloroform (20 mL) was prepared and stirred at room temperature for two hours. The reaction mixture was diluted with 5% sodium thiosulfate (20 mL) followed by water (30 mL). The chloroform layer was collected, dried over anhydrous sodium sulfate, filtered and the dried chloroform portion was evaporated to dryness. The resulting solid residue was purified by silica gel chromatography (3:1 hexane/ethyl acetate as eluent) to obtain 3-(3-chloro-benzenesulfonyl)-6-methoxy-pyridazine (29%, 173 mg); mass spectrum, M+, 285.

reactant | 3-(3-chloro-phenylsulfanyl)-6-methoxy-pyridazine | 529 mg | ClC=1C=C(C=CC1)SC=1N=NC(=CC1)OC | C11H9ClN2OS
reactant | m-chloroperbenzoic acid | 760 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
reactant | water | 30 mL | O | H2O
solvent | sodium thiosulfate | 20 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 3-(3-chloro-benzenesulfonyl)-6-methoxy-pyridazine | 173 mg, 29% | ClC=1C=C(C=CC1)S(=O)(=O)C=1N=NC(=CC1)OC | C11H9ClN2O3S
